data/core_train_final.csv
"CC(CC(C(OC)=O)CC(C(OC)=O)C[CH:10]C(OC)=O)(C(OCC)=O)C.CC(CC(C(OC)=O)CC(C(OC)=O)C([CH:20]C(OC)=O)[H])(C(OCC)=O)C>>CC(CC(C(OC)=O)CC(C(OC)=O)C[CH:10]([CH:20](C(OC)=O)CC(C(OC)=O)CC(C(OC)=O)CC(C)(C(OCC)=O)C)C(OC)=O)(C(OCC)=O)C 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C1=CC=C(C=C1)[C:10](Cl)Cl.[Cl:20][Cl:21]>>C1=CC=C(C=C1)[C:10](Cl)(Cl)[Cl:20].[Cl:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][CH2:21][C:22](C)C1/C(=[C:10]/C2=CC=CC=C2)/C(=O)N(C1=O)CC3=CC=CC=C3>>[H:20]/[C:10](=C/1\C(C(=O)N(C1=O)CC2=CC=CC=C2)[C:22](=[CH2:21])C)/C3=CC=CC=C3 10-10,20;20,21-10,20;20,21-21,22;22-21,22",Room Temperature,Termination,abstraction
"[H:22][C:14]([CH3:13])([CH3:23])[O:15][C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1.[CH3:1][C:2]([CH3:12])([O:5][C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1)[O:3][O:4]>>[H:22][O:4][O:3][C:2]([CH3:1])([CH3:12])[O:5][C:6]1=[CH:7][CH:8]=[CH:9][CH:10]=[CH:11]1.[CH3:13][C:14]([CH3:23])[O:15][C:16]1=[CH:17][CH:18]=[CH:19][CH:20]=[CH:21]1 4-4,22;22,14-22,4;14,22-14",Room Temperature,Propagation,abstraction
"[H:20][Br:21].CCC/[C:10]=C/Br>>[H:20]/[C:10](=C\Br)/CCC.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH3:12][CH:11]([CH3:13])[C:10](=[O:14])[CH2:9][CH2:8][C:2]([CH3:7])([CH:3]([CH:5][OH:6])[OH:4])[O:1]>>[CH3:12][CH:11]([CH3:13])[C:10](=[O:14])[CH2:9][CH2:8][C:2](=[O:1])[CH3:7].[CH:3](=[CH:5][OH:6])[OH:4] 1-1,2; 2,3-1,2; 5-5,3; 2,3-5,3",Room Temperature,Termination,retroaddition
"[H:20][C:21]1(CCCCC1(C)C)C.[Br:10]>>[H:20][Br:10].C[C:21]1CCCCC1(C)C 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:4][C:3]([CH2:5][CH2:6][CH3:7])[C:2]([H:8])([CH3:1])[Br:9].[H:10][Br:11]>>[H:4][C:3]([H:10])([CH2:5][CH2:6][CH3:7])[C:2]([H:8])([CH3:1])[Br:9].[Br:11] 3-3,10;10,11-3,10;10,11-11",Room Temperature,Propagation,abstraction
"[H:20][Br:21].C[C:10](C)CBr>>[H:20][C:10](C)(C)CBr.[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"C[CH:10]C1=CC=CC=C1.[Br:20][Br:21]>>C[CH:10](C1=CC=CC=C1)[Br:20].[Br:21] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:20][C:21](CC)(CC)CCC.[Br:10]>>[H:20][Br:10].CCC[C:21](CC)CC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:10][C:7]1[CH2:8][CH2:9][C:2]([C:3](=[C:5]1[H:6])[H:4])([CH3:1])[CH3:11]>>[H:10][C:7]1=[C:5]([C:3]([C:2]([CH2:9][CH2:8]1)([CH3:1])[CH3:11])[H:4])[H:6] 7-7,5;3,5-7,5;3,5-3",Room Temperature,Propagation,resonance
"[H:9][C:8]1[CH:7]=[CH:6][CH2:5][CH2:4][C:2]1([CH3:1])[CH3:3].[Br:10]>>[H:9][C:8]1([CH:7]=[CH:6][CH2:5][CH2:4][C:2]1([CH3:1])[CH3:3])[Br:10] 8-8,10;10-8,10",Room Temperature,Termination,recombine
"[H:20][Sn:21](CCCC)(CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)I.CC12CC[CH:10]C1C(C3C2CC(C3)(C(=O)OC)C(=O)OC)C(=O)OC>>[H:20][CH:10]1CCC2(C1C(C3C2CC(C3)(C(=O)OC)C(=O)OC)C(=O)OC)C.CCCC[Sn:21](CCCC)CCCC.CCCC[Sn](CCCC)(CCCC)I 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[H:10][C:9](=[C:2]([H:1])[C:3]1=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]1)[H:11].[O:12]C(C1=CC=CC=C1)=O>>[H:1][C:2]([C:3]1=[CH:4][CH:5]=[CH:6][CH:7]=[CH:8]1)[C:9]([H:10])([H:11])[O:12]C(C1=CC=CC=C1)=O 12-12,9;9,2-12,9;9,2-2",Room Temperature,Propagation,addition
"[H:20][C:21](C)(C)/C=C/C(C)C.CC(C)(C1=CC=CC=C1)O[O:10].C1CCC2CCCCC2C1>>[H:20][O:10]OC(C)(C)C1=CC=CC=C1.CC(C)/C=C/[C:21](C)C.C1CCC2CCCCC2C1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH:20]#[C:21]CCCC1CCCC1=O.C1=CC=C(C=C1)[S:10]>>C1CC(C(=O)C1)CCC[C:21]=[CH:20][S:10]C2=CC=CC=C2 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[H:20][Sn:21](CCCC)(CCCC)CCCC.C1CCC2(C(C1)CC(C2=[C:10]C3=CC=CC=C3)C#N)O>>[H:20][C:10](=C1C(CC2C1(CCCC2)O)C#N)C3=CC=CC=C3.CCCC[Sn:21](CCCC)CCCC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CC(C)(C[C:21](C)(C#N)/[N:20]=N/C(C)(CC(C)(C)OC)C#N)OC.[Ar]>>[Ar].C[C:21](CC(C)(C)OC)C#N.CC(C)(CC(C)(C#N)N=[N:20])OC 20,21-20;20,21-21",Heat,Initiation,homolyze
"[CH:20]1=[CH:21]C(C(C(C1Cl)Cl)Cl)Cl.[Cl:10]>>[CH:21]1[CH:20](C(C(C(C1Cl)Cl)Cl)Cl)[Cl:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"[CH:4]1=[CH:3][C:2](=[S:1])[N:7][CH:6]=[CH:5]1>>[CH:4]1=[CH:3][C:2](=[N:7][CH:6]=[CH:5]1)[S:1] 7-2,7; 1,2-2,7; 1,2-1",Room Temperature,Propagation,resonance
"[H:20][CH:21]1C(CCCC1=C)C.[Br:10]>>[H:20][Br:10].CC1CCCC(=C)[CH:21]1 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"CCCC[Sn](CCCC)(CCCC)I.C[C:20](=[CH:21]CC(C/C=C/C(=O)OC)(C(=O)OC)C(=O)OC)CCC=[CH:10]>>CCCC[Sn](CCCC)(CCCC)I.C[C:20]1(CCC=[CH:10]1)[CH:21]CC(C/C=C/C(=O)OC)(C(=O)OC)C(=O)OC 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
